US07230020B2
Reaction of 2,5-dichlorobenzoic acid (300 mg, 1.50 mmol) in thionyl chloride (3.5 mL) then with 6-Amino-3,4-dihydro-2H-naphthalen-1-one (80 mg, 0.50 mmol) in presence of triethylamine (90 μL, 0.65 mmol) in THF (6 mL) according to method B gave 2,5-dichloro-N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzamide (150 mg, 0.48 mmol, 76% yield) as a grey powder after purification by crystallisation in DCM.

reactant | 2,5-dichlorobenzoic acid | 1.50 mmol, 300 mg | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | 6-Amino-3,4-dihydro-2H-naphthalen-1-one | 0.50 mmol, 80 mg | NC=1C=C2CCCC(C2=CC1)=O | C10H11NO
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 3.5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2,5-dichloro-N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzamide | 0.48 mmol, 150 mg, 76% yield | ClC1=C(C(=O)NC2=CC=3CCCC(C3C=C2)=O)C=C(C=C1)Cl | C17H13Cl2NO2
